US04959366
(C) 1-(4-Methanesulphonamidophenoxy)-2-[N-(4-methanesulphonamidophenethyl)-N-methylamino]ethane
The title compound was prepared by mesylation of 1-(4-aminophenoxy)-2-[N-methyl-N-(4-methanesulphonamidophenethyl)amino]ethane dihydrochloride hemihydrate (95 mg) with mesyl chloride ir pyridine according to the procedure of Example 19(C), yield 30 mg, m.p. 147°-149°, confirmed spectroscopically to be identical to the product of Example 7(C).

reactant | 1-(4-aminophenoxy)-2-[N-methyl-N-(4-methanesulphonamidophenethyl)amino]ethane dihydrochloride hemihydrate | 95 mg | O.Cl.Cl.NC1=CC=C(OCCN(CCC2=CC=C(C=C2)NS(=O)(=O)C)C)C=C1.NC1=CC=C(OCCN(C)CCC2=CC=C(C=C2)NS(=O)(=O)C)C=C1.Cl.Cl
reactant | mesyl chloride | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-(4-Methanesulphonamidophenoxy)-2-[N-(4-methanesulphonamidophenethyl)-N-methylamino]ethane | CS(=O)(=O)NC1=CC=C(OCCN(C)CCC2=CC=C(C=C2)NS(=O)(=O)C)C=C1 | C19H27N3O5S2
